US05580870
Using an analogous procedure to that described in Example 9, 1-aminoisoquinoline was reacted with 4-chloro-6,7-dimethoxyquinazoline to give 6,7-dimethoxy-4-(1-isoquinolylamino)quinazoline in 13% yield, m.p. 198°-199° C.;

reactant | 1-aminoisoquinoline | NC1=NC=CC2=CC=CC=C12 | C9H8N2
reactant | 4-chloro-6,7-dimethoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
product | 6,7-dimethoxy-4-(1-isoquinolylamino)quinazoline | 13% yield | COC=1C=C2C(=NC=NC2=CC1OC)NC1=NC=CC2=CC=CC=C12 | C19H16N4O2
